US06759554B2
1-(4-Methylphenyl)-3-chloroindazole
Using the general procedure, 3-chloroindazole (0.153 g, 1.00 mmol) was coupled with 4-bromotoluene, (148 μL, 1.20 mmol) using CuI (9.5 mg, 0.050 mmol, 5.0 mol %), K3PO4 (2.1 mmol), trans-N,N′-dimethyl-1,2-cyclohexanediamine (32 μL, 0.20 mmol, 20 mol %) and toluene (1.0 mL) to give the crude product. Column chromatography (2×15 cm, hexane:ethyl acetate 50:1) provided 0.211 g (87% yield) of the product as a colorless oil. 1H NMR (400 MHz, CDCl3): δ7.70 (d, J=8.2 Hz, 1H), 7.63 (d, J=8.5 Hz, 1H), 7.52 (m, 2H), 7.43 (m, 1H), 7.24 (d, J=8.2 Hz, 2H),7.22 (m, 1H), 2.38 (s, 3H).

reactant | 3-chloroindazole | 1.00 mmol, 0.153 g | ClC1=NNC2=CC=CC=C12 | C7H5ClN2
reactant | 4-bromotoluene | 1.20 mmol, 148 μL | BrC1=CC=C(C=C1)C | C7H7Br
reactant | K3PO4 | 2.1 mmol | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | trans-N,N′-dimethyl-1,2-cyclohexanediamine | 0.20 mmol, 32 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
catalyst | CuI | 0.050 mmol, 9.5 mg | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Methylphenyl)-3-chloroindazole | 0.211 g, 87% yield | CC1=CC=C(C=C1)N1N=C(C2=CC=CC=C12)Cl | C14H11ClN2
